US08536179B2
N-[(4,6-dimethyl-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-3-methyl-1-(1-methylethyl)-6-[6-(1-piperazinyl)-3-pyridinyl]-1H-indole-4-carboxamide
6-Bromo-N-[(4,6-dimethyl-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-3-methyl-1-(1-methylethyl)-1H-indole-4-carboxamide (1.9 g, 4.42 mmol), 1-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridinyl]piperazine (1.277 g, 4.42 mmol) and potassium phosphate (tribasic) (2.81 g, 13.25 mmol) were placed in a 150 mL pressure vessel followed by addition of 1,4-dioxane (40 mL) and water (10.00 mL). The suspension was stirred and degassed under N2 for 15 min. (emulsion). Next added in PdCl2(dppf)-CH2Cl2 adduct (0.361 g, 0.442 mmol) and degassed for 2 min. The reaction flask was sealed and the contents heated at reflux for 2 h. The suspension was filtered, and dioxane was removed in vacuo. The resultant oil was partitioned between 300 mL of ethyl acetate and 100 mL of water, and the layers were separated. Decolorizing carbon was added, and after 10 min, the organic layer was filtered through short pad of silica. 300 mL of 1 M HCl was added and neutralized with NaOH (to pH ˜9). The contents were extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The product was suspended in diethyl ether and filtered. The title compound was isolated as a yellow solid (950 mg, 41% yield). 1H NMR (400 MHz, DMSO-d6) δ 11.49 (br. s., 1H), 8.52 (d, J=2.27 Hz, 1H), 8.15 (t, J=5.05 Hz, 1H), 7.95 (dd, J=2.53, 8.84 Hz, 1H), 7.73 (d, J=1.26 Hz, 1H), 7.29 (s, 1H), 7.19 (d, J=1.52 Hz, 1H), 6.93 (d, J=9.09 Hz, 1H), 5.87 (s, 1H), 4.85 (quin, J=6.63 Hz, 1H), 4.35 (d, J=5.05 Hz, 2H), 3.49-3.63 (m, 4H), 2.81-3.02 (m, 4H), 2.24 (s, 3H), 2.16 (s, 3H), 2.11 (s, 3H), 1.43 (d, J=6.57 Hz, 6H); LCMS=513.3 (MH+).

reactant | 6-Bromo-N-[(4,6-dimethyl-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-3-methyl-1-(1-methylethyl)-1H-indole-4-carboxamide | 4.42 mmol, 1.9 g | BrC=1C=C(C=2C(=CN(C2C1)C(C)C)C)C(=O)NCC=1C(NC(=CC1C)C)=O | C21H24BrN3O2
reactant | 1-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridinyl]piperazine | 4.42 mmol, 1.277 g | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N1CCNCC1)C | C15H24BN3O2
reactant | potassium phosphate | 13.25 mmol, 2.81 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.442 mmol, 0.361 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | water | 10.00 mL | O | H2O
product | N-[(4,6-dimethyl-2-oxo-1,2-dihydro-3-pyridinyl)methyl]-3-methyl-1-(1-methylethyl)-6-[6-(1-piperazinyl)-3-pyridinyl]-1H-indole-4-carboxamide | CC1=C(C(NC(=C1)C)=O)CNC(=O)C=1C=2C(=CN(C2C=C(C1)C=1C=NC(=CC1)N1CCNCC1)C(C)C)C | C30H36N6O2
